US06995171B2
F. (3R)-(3-Methoxy-pyrrolidin-1-yl)-[7-(2-methyl-1H-indol-5-yloxy)-thieno[3,2-b]pyridin-2-yl]-methanone
Cs2CO3 (0.495 g, 1.52 mmol) was added to a solution of (3R)-(7-chloro-thieno[3,2-b]pyridin-2-yl)-(3-methoxy-pyrrolidin-1-yl)-methanone (0.228 g, 0.76 mmol) and 2-methyl-1H-indol-5-ol (0.223 9, 1.52 mmol) in DMF (5 mL), and the resulting solution was heated to 90° C. After 20 h the reaction was quenched with water, EtOAc was added, and the layers were separated. The aqueous layer was extracted with EtOAc, and the combined organic layers were dried over Na2SO4 then concentrated. The resulting material was purified on silica gel by flash column chromatography, eluting with CH2Cl2/MeOH (98/2) to afford the title compound as a white solid (0.26 g, 84%). MS: 408.8 (MH+); HPLC Rf: 5.394 min.; HPLC purity: 97%.

reactant | Cs2CO3 | 1.52 mmol, 0.495 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | (3R)-(7-chloro-thieno[3,2-b]pyridin-2-yl)-(3-methoxy-pyrrolidin-1-yl)-methanone | 0.76 mmol, 0.228 g | ClC1=C2C(=NC=C1)C=C(S2)C(=O)N2C[C@@H](CC2)OC | C13H13ClN2O2S
reactant | 2-methyl-1H-indol-5-ol | 1.52 mmol | CC=1NC2=CC=C(C=C2C1)O | C9H9NO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | (3R)-(3-Methoxy-pyrrolidin-1-yl)-[7-(2-methyl-1H-indol-5-yloxy)-thieno[3,2-b]pyridin-2-yl]-methanone | 0.26 g, 84% | CO[C@H]1CN(CC1)C(=O)C1=CC2=NC=CC(=C2S1)OC=1C=C2C=C(NC2=CC1)C | C22H21N3O3S
